US07273878B2
To 40 ml of N,N-dimethylformamide were dissolved 5.00 g (22 mmol) of 6,6-difluoro-5-methyl-5-hexenyl methanesulfonate and 4.30 g (24 mmol) of benzo[b]thiophene-2-carboxylicacid, followed by the addition of 6.00 g (71 mmol) of sodium hydrogencarbonate and stirring at 100° C. for 3 hours. The reaction liquid was then poured in water and extracted with diethyl ether. The organic layer was washed with water and a saturated saline solution in this order, followed by drying over anhydrous magnesium sulfate and concentration under reduced pressure. The residue was purified with silica gel column chromatography (diisopropyl ether:hexane=1:7) to obtain 5.50 g (yield: 81%) of 6,6-difluoro-5-methyl-5-hexenyl benzo[b]thiophene-2-carboxylate.

reactant | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
reactant | 6,6-difluoro-5-methyl-5-hexenyl methanesulfonate | 22 mmol, 5.00 g | CS(=O)(=O)OCCCCC(=C(F)F)C | C8H14F2O3S
reactant | benzo[b]thiophene-2-carboxylicacid | 24 mmol, 4.30 g | S1C2=C(C=C1C(=O)O)C=CC=C2 | C9H6O2S
reactant | sodium hydrogencarbonate | 71 mmol, 6.00 g | C(O)([O-])=O.[Na+]
solvent | water | O | H2O
product | 6,6-difluoro-5-methyl-5-hexenyl benzo[b]thiophene-2-carboxylate | 5.50 g, yield: 81% | S1C2=C(C=C1C(=O)OCCCCC(=C(F)F)C)C=CC=C2 | C16H16F2O2S
